US08193378B2
2-Fluoro-4,6-dihydroxybenzaldehyde (12 g) was dissolved in MeCN (250 mL), and cesium carbonate (25.1 g) and chloromethylmethylether (6.95 mL) were added thereto, followed by stirring at room temperature for 1 hour. The insoluble materials were removed by filtration through celite and the filtrate was concentrated. The residue was purified by silica gel column chromatography (automatic purification device, hexane:EtOAc=100:0 to 94:6) to obtain 2-fluoro-6-hydroxy-4-(methoxymethoxy)benzaldehyde (11.89 g) as a white powder.

reactant | 2-Fluoro-4,6-dihydroxybenzaldehyde | 12 g | FC1=C(C=O)C(=CC(=C1)O)O | C7H5FO3
reactant | cesium carbonate | 25.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | chloromethylmethylether | 6.95 mL | ClCOC | C2H5ClO
solvent | MeCN | 250 mL | CC#N | C2H3N
product | 2-fluoro-6-hydroxy-4-(methoxymethoxy)benzaldehyde | 11.89 g | FC1=C(C=O)C(=CC(=C1)OCOC)O | C9H9FO4
